US06844362B2
1-tert-butyl 2-methyl 5-bromo-1H-indole-1,2-dicarboxylate
A solution of methyl 5-bromo-1H-indole-2-carboxylate (Preparation 19, 8.14 g, 32.04 mmol) in tetrahydrofuran (300 ml) was added to sodium hydride (1.35 g of a 40% dispersion in mineral oil, 33.7 mmol) at 0° C. under nitrogen. The resulting mixture was left to stir until effervescence ceased (50 minutes). A solution of di-tert-butyldicarbonate in further tetrahydrofuran (30 ml) was added to the reaction and the resulting mixture stirred vigorously, warming gradually to room temperature overnight. The solvent was removed in vacuo and the residue partitioned between ethyl acetate (200 ml) and water (200 ml). The organic phase was separated and the aqueous extracted with more ethyl acetate (2-fold 200 ml). The combined organics were dried (magnesium sulphate) and the solvent removed in vacuo to give the title compound as a pale yellow oil (12.5 g-trace solvent remaining).

reactant | methyl 5-bromo-1H-indole-2-carboxylate | 32.04 mmol, 8.14 g | BrC=1C=C2C=C(NC2=CC1)C(=O)OC | C10H8BrNO2
reactant | sodium hydride | [H-].[Na+]
reactant | di-tert-butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-tert-butyl 2-methyl 5-bromo-1H-indole-1,2-dicarboxylate | 12.5 g | BrC=1C=C2C=C(N(C2=CC1)C(=O)OC(C)(C)C)C(=O)OC | C15H16BrNO4
